US04603198
A mixture of methylene chloride and 209 mg of phosphorus pentachloride was cooled to -10° C. 752 mg of 2-(2-tritylaminothiazol-4-yl)-2-((N-tritylimidazol-4-yl)methoxyimino)acetic acid was added to the mixture and the mixture was stirred for 10 minutes at the same temperature. 0.25 ml of triethylamine was added thereto and after 5 minutes a mixture of methylene chloride, 401 mg of tertiary butyl 7β-amino-3-bromomethyl-3-cephem-4-carboxylate 1-oxide hydrochloride and 0.14 ml of triethylamine was added to the mixture. The resulting mixture was stirred for 30 minutes at the same temperature. A 5% aqueous solution of sodium bicarbonate was added to the reaction mixture and the organic solvent layer was washed with a diluted aqueous solution of citric acid and SSC and dried with sodium sulfate and then concentrated to dryness to give 1.0 g tertiary butyl 7β-(2-(2-tritylaminothiazol-4-yl)-2-((N-tritylimidazol-4-yl)methoxyimino)acetamido)-3-bromomethyl-3-cephem-4-carboxylate 1-oxide (syn isomer).

reactant | phosphorus pentachloride | 209 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-(2-tritylaminothiazol-4-yl)-2-((N-tritylimidazol-4-yl)methoxyimino)acetic acid | 752 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H37N5O3S
reactant | tertiary butyl 7β-amino-3-bromomethyl-3-cephem-4-carboxylate 1-oxide hydrochloride | 401 mg | Cl.N[C@H]1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC(C)(C)C)C1=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
product | tertiary butyl 7β-(2-(2-tritylaminothiazol-4-yl)-2-((N-tritylimidazol-4-yl)methoxyimino)acetamido)-3-bromomethyl-3-cephem-4-carboxylate 1-oxide | 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC(C)(C)C)C1=O)=NOCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C59H52BrN7O6S2
